US07470710B2
(RS)-1-[2(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)piperidin-1-yl]-1-[4-(4-fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanone
A solution of 4-(4-fluoro-phenyl)-1-methyl-1H-pyrazole-3-carboxylic acid (73 mg, 0.33 mmol), HATU (124 mg, 0.33 mmol) and N,N-diisopropylethylamine (0.35 ml) in DMF (6 ml) was stirred at room temperature under argon for 0.5 h. The mixture was then treated with (RS)-5,6-difluoro-2-piperidin-2-ylmethyl-1H-benzoimidazole.2HCl, D20 (105 mg, 0.33 mmol) and stirring, under argon was continued for 16 h. The reaction mixture was diluted with diethyl ether and washed with water (3×), dried (MgSO4) and the solvent removed in vacuo. Chromatography (silica gel, ethyl acetate) afforded the title compound (88 mg, 57%).

reactant | 4-(4-fluoro-phenyl)-1-methyl-1H-pyrazole-3-carboxylic acid | 0.33 mmol, 73 mg | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)O | C11H9FN2O2
reactant | HATU | 0.33 mmol, 124 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.35 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (RS)-5,6-difluoro-2-piperidin-2-ylmethyl-1H-benzoimidazole | FC1=CC2=C(NC(=N2)CC2NCCCC2)C=C1F | C13H15F2N3
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (RS)-1-[2(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)piperidin-1-yl]-1-[4-(4-fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanone | 88 mg, 57% | FC1=CC2=C(NC(=N2)CC2N(CCCC2)C(=O)C2=NN(C=C2C2=CC=C(C=C2)F)C)C=C1F | C24H22F3N5O
